USH0001453
An enzyme solution (0.1 ml) is added to 0.3 ml of 100 mM phosphate buffer (pH 7.8) containing 0.1 ml of 1% N-acetyl-D-glucosamine as a substrate, and the resultant mixture is incubated at 37° C. for 30 minutes. The amount of D-glucosamine formed is determined colorimetrically using indole-HCl according to the method of Z. Dische and E. Borenfreund [J. Biol. Chem., 184:517 (1950)]. One unit of the enzyme is defined as the amount of the enzyme which is capable of producing 1 μmol D-glucosamine from N-acetyl-D-glucosamine per minute at 37° C.

reactant | phosphate | 100 mM, 0.3 ml, pH 7.8 | P(=O)([O-])([O-])[O-]
reactant | N-acetyl-D-glucosamine | 0.1 ml | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
product | D-glucosamine | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
